Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Horse Blood 
Extract / VEETIDS
 
Attending: ___
 
Chief Complaint:
facial swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMh anxiety, asthma, and HTN presenting with an episode 
of face swelling and anxiety. She states that she awoke up this 
morning and felt her lips and cheeks were swollen. They were not 
itchy or tingly. She had a warm feeling in her face and some 
pressure in her head. She has had a poor sleep schedule due to 
her job hosting an ___ and has been very tired. 
She had no rash or tongue swelling. She then felt like her 
throat was getting tight and called EMS. She has never had this 
before but her father had angioedema to lisinopril. She does 
have panic attacks and is on diazepam twice daily. This has been 
a stable dose for her for months but she was on higher doses in 
the past. She did not take her lisinopril this morning. One of 
the EMTs was an friend and stated to the patient that her face 
looked slightly more swollen.
In the ED, initial VS: 97.8 ___ 16 100% RA. She was 
given ativan, HCTZ followed by hydralazine and 1L NS and 
admitted to the CDU. She was persistently tachy and there was 
given ativan and her usual bedtime dose of valium. Due to 
persistent tachycardia despite these efforts, she was admitted 
to medicine. 
 
Past Medical History:
asthma  
HTN  
panic disorder  
Bell's palsy ___ years ago  
Fe deficiency anemia  
Allergic rhinitis 
Obesity  
CCY ___ 
Breast reduction ___

 
Social History:
___
Family History:
No history of CAD, DM, CVA, or sudden cardiac death.
Breast cancer in maternal grandmother  

 
Physical Exam:
On admission PHYSICAL EXAM:  
VS - Temp 98.6 F, BP 180/120, HR 123, R 18, O2-sat 98% RA  
GENERAL - NAD. no swelling, angioedema  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - tachy, regular, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, no tremor  
.
On Discharge PHYSICAL EXAM:
VS - T98.2    ___   16   100%RA
GENERAL - NAD. no swelling, angioedema  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD  
LUNGS - CTA bilat, good air movement, resp unlabored
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - soft/NT/ND
EXTREMITIES - WWP, no c/c/e, 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3

 
Pertinent Results:
Initial LABS:
___ (09:55AM)
GLUCOSE-119* UREA N-12 CREAT-0.9 SODIUM-140 POTASSIUM-3.8 
CHLORIDE-101 TOTAL CO2-26 ANION GAP-17
WBC-11.7* RBC-4.68 HGB-12.4 HCT-38.1 MCV-81* MCH-26.5*# 
MCHC-32.5 RDW-13.7
ASA-NEG ACETMNPHN-NEG bnzodzpn-POS barbitrt-NEG tricyclic-NEG
.
URINE:  UCG-NEGATIVE BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
.
On discharge:
___ 07:20AM 
WBC-8.3 RBC-4.06* Hgb-10.8* Hct-32.7* MCV-81* MCH-26.6* 
MCHC-33.0 RDW-14.0 Plt ___
Glucose-108* UreaN-10 Creat-0.9 Na-140 K-3.8 Cl-103 HCO3-28 
AnGap-13 Calcium-8.8 Phos-4.8* Mg-2.___ yo female with history of anxiety admitted after being found 
tachycardic and hypertensive during an ED evaluation for facial 
swelling.
.  
#Tachycardia:
We suspect the cause was partly sympathetically mediated. Pt 
describes her heart rate being very variable depending on her 
surroundings. If she is very anxious, it will increase. Another 
possibility for her tachycardia is her repeated albuterol use. 
Pt stated requiring 2+ puffs per day and had inhaler beside.  
Patients tox screen was positive for benzos, which she takes 
twice a day and had been on stable dose for months. Patient was 
placed on telemetry and observed and did not show any concernign 
patterns. Patient was reassured and stable when discharged.
. 
#Hypertension:
Patient was found to have a blood pressure of 200/110 when 
presenting to the ED with facial swelling. Given the possibility 
of angioedema, her lisinopril was stopped and patient was 
started on HCTZ. Patient described white coat hypertension, but 
given persistent finding started on anti-hypertensive. Patient 
will continue HCTZ 25mg and follow-up with her PCP ___ 1 week to 
assess need for further treatment.
.  
#Anxiety: Patient outpatient regimen of 40mg paxil and 5mg 
valium BID were continued. Patient required constant reassurance 
that her condition was not grave and that, though she was in the 
hospital, it was mostly for observation. Patient improved and 
felt comfortable going home.
.
#Facial swelling: This issue had mostly resolved by the time of 
transfer to the floor. There was no evidence of airway 
compromise. Description of cheek swelling and face tightness 
does not seem like angioedema, but drug was discontinued and 
changed to HCTZ. Given patients history of allergic rhinitis, 
could be a component of this causing the facial swelling.
.
#Asthma: Patient described significant albuterol use and this 
likely ___ contributing to her tachycardia. Patient was given a 
prescription for fluticasone upon discharge. Patient will 
follow-up with PCP ___ 1 week of discharge.
.  
#Allergic rhinitis: Continued on intranasal flonase  

 
Medications on Admission:
Paroxetine 40mg daily  
albuterol sulfate 4 puffs every 4 hours as needed 
diazepam 5 mg BID  
fluticasone 50 mcg Spray, Suspension 1 puff each nostril in am
lisinopril 5 mg Tablet daily 
 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for shortness 
of breath.  
2. diazepam 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day for 2 weeks.
4. clonidine 0.1 mg Tablet Sig: One (1) Tablet PO ONCE (Once) 
for 1 doses.  
5. paroxetine HCl 40 mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
7. Outpatient Lab Work
Please draw CHEM 10 on ___
8. fluticasone 110 mcg/Actuation Aerosol Sig: One (1) puff 
Inhalation twice a day.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Anxiety
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were evaluated for you fast heart rate and high blood 
pressure. Your blood pressure was under better control after 
starting HCTZ. Your fast heart rate seemed to change depending 
on your anxiety level. Trying calming techniques might help you 
when you have this sensation.
  
The following changes were made to your medications:
#START Hydrochlorothiazide daily
#STOP Lisinopril
#START Fluticasone twice daily to help with your asthma
 
Followup Instructions:
___